US08648200B2
[4-Methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]ammonium formate
Suspend 2-methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine (2.176 g, 7.849 mmol) in EtOH (15.00 mL, 257.646 mmol). Add hydrazine hydrate (4.00 mL, 81.821 mmol). Heat to 125° C. with microwave irradiation. Stir for 30 minutes, and concentrate under reduced pressure. Dissolve the residue in EtOAc (75 mL); wash the organic extracts with water (3×50 mL); and then wash with a saturated NaCl aqueous solution (50 mL). Dry the organic extracts over Na2SO4; filter; collect the filtrate; and concentrate the filtrate in vacuo. Purify by reverse phase flash chromatography (Analogix® 150 g @ 40 mL/min) eluting with a gradient of 5-30% ACN/water over 35 minutes. Material precipitates upon loading samplet. Collect the resulting white material from the samplet and reflux it MeOH for 15 minutes. Filter the MeOH mixture through diatomaceous earth collect the filtrate, and wash the diatomaceous earth with MeOH. Concentrate the combined filtrates under reduced pressure to give the title compound (1.643 g, 72.9% yield) as a white crystalline solid. 1H NMR (400.43 MHz, d6-DMSO) δ 13.14-13.11 (m, 2H), 7.77 (d, J=8.4 Hz, 2H), 7.66 (d, J=8.2 Hz, 2H), 7.47 (s, 2H), 2.26 (s, 3H). ES/MS (m/z) 241.99 (parent+1, formate not detected).

reactant | 2-methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine | 7.849 mmol, 2.176 g | CC=1N=C2N(C=CC=N2)C1C1=CC=C(C=C1)C(F)(F)F | C14H10F3N3
reactant | EtOH | 257.646 mmol, 15.00 mL | CCO | C2H6O
reactant | hydrazine hydrate | 81.821 mmol, 4.00 mL | O.NN
product | [4-Methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]ammonium formate | 1.643 g, 72.9% yield | C(=O)[O-].CC=1N=C(NC1C1=CC=C(C=C1)C(F)(F)F)[NH3+] | InChI=1S/C11H10F3N3.CH2O2/c1-6-9(17-10(15)16-6)7-2-4-8(5-3-7)11(12,13)14;2-1-3/h2-5H,1H3,(H3,15,16,17);1H,(H,2,3)
